US07199135B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-(4-CHLOROPHENYL) PROPANAMIDE:
Example 95 was prepared from 2-(4-chlorophenyl) propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.48 (s, 1H), 7.36 (s, 1H), 7.31–7.25 (m, 6H), 6.98–6.93 (m, 2H), 3.51–3.48 (m, 1H), 3.35–3.31 (m, 2H), 3.03 (d, 1H, J=11.6 Hz), 2.93 (d, 1H, J=11.2 Hz), 2.50 (m, 1H), 2.42–2.38 (m, 2H), 2.19 (s, 3H), 2.05–1.96 (m, 2H), 1.90–1.80 (m, 2H), 1.70–1.59 (m, 4H), 1.51 (d, 3H, J=7.2 Hz); ESMS m/e: 442.2 (M+H)+.

reactant | 2-(4-chlorophenyl) propanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-(4-CHLOROPHENYL) PROPANAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(C(C)C1=CC=C(C=C1)Cl)=O | C25H32ClN3O2
